US07855213B2
2-(3-Bromo-4-fluorobenzoyl)benzonitrile (Scheme #11, E)
To a −20° C. solution of 2-cyanophenylzinc bromide (0.5 M in tetrahydrofuran, 20 mL, 10 mmol) was a solution of copper cyanide (0.94 g, 10.5 mmol) and lithium bromide (1.82 g, 21.0 mmol) in tetrahydrofuran (15 mL) added, the reaction was slowly allowed to reach room temperature, after 15 minutes the reaction mixture was recooled to −25° C. A solution of 3-bromo-4-fluorobenzoyl chloride (1.45 g, 10.5 mmol) in tetrahydrofuran (10 mL) was added, the reaction mixture was stirred at −25° C. 1 h and at room temperature over night. After partition between aqueous ammonium chloride and diethylether, the organic phase was dried over magnesium sulfate and concentrated to give the crude title product which was used without further purification. MS (ESI) m/z 304, 306 [M+1]+.

reactant | 2-cyanophenylzinc bromide | 10 mmol, 0.5 M, 20 mL | [Br-].C(#N)C1=C(C=CC=C1)[Zn+]
reactant | copper cyanide | 10.5 mmol, 0.94 g | [Cu](C#N)C#N
reactant | lithium bromide | 21.0 mmol, 1.82 g | [Br-].[Li+]
reactant | 3-bromo-4-fluorobenzoyl chloride | 10.5 mmol, 1.45 g | BrC=1C=C(C(=O)Cl)C=CC1F | C7H3BrClFO
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-(3-Bromo-4-fluorobenzoyl)benzonitrile | BrC=1C=C(C(=O)C2=C(C#N)C=CC=C2)C=CC1F | C14H7BrFNO
